US08193356B2
To a suspension of 4-hydroxy-1-phenyl-3-(tetrahydro-2H-pyran-4-ylacetyl)-1,8-naphthyridin-2(1H)-one (120 mg, 0.33 mmol) produced in Synthesis Example 40 in DMF (2 mL) was added hydrazine monohydrate (purity of 80%, 53 μL), and the mixture was stirred at 110to 120° C. for 2 hours. To the reaction solution was added a sodium hydrogen carbonate aqueous solution. The resulting precipitate was separated by filtration, washed with water, and dried to give 5-phenyl-3-(tetrahydro-2H-pyran-4-ylmethyl)-1H-pyrazolo[4,3-c][1,8]naphthyridin-4(5H)-one as a form of crystal (66 mg, yield 55%).

reactant | 4-hydroxy-1-phenyl-3-(tetrahydro-2H-pyran-4-ylacetyl)-1,8-naphthyridin-2(1H)-one | 0.33 mmol, 120 mg | OC1=C(C(N(C2=NC=CC=C12)C1=CC=CC=C1)=O)C(CC1CCOCC1)=O | C21H20N2O4
reactant | hydrazine monohydrate | 53 μL | O.NN
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 5-phenyl-3-(tetrahydro-2H-pyran-4-ylmethyl)-1H-pyrazolo[4,3-c][1,8]naphthyridin-4(5H)-one | C1(=CC=CC=C1)N1C(C2=C(C=3C=CC=NC13)NN=C2CC2CCOCC2)=O | C21H20N4O2
